US05627182
b) N-Tert-butoxycarbonyl-2-methylene-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butyl-phenyl)-octanoic acid (N-butyl)amide
695 mg of methacrylic acid butylamide are dissolved in 30 ml of tetrahydrofuran and, at -75° C., 6.2 ml of 1.6M n-butyllithium in hexane are added thereto. The reaction mixture is stirred for 30 minutes at 0° C. and then, at -75° C., 9.8 ml of 1M chlorotitanium triisopropoxide in hexane are added thereto. The mixture is stirred for a further 15 minutes at -75° C. and then, at the same temperature, a solution of 924 mg of 2(S)-tert-butoxycarbonyl-amino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanal in 10 ml of tetrahydrofuran is added dropwise thereto. The reaction mixture is then stirred further for 15 minutes at -75° C. and for 70 minutes at 0° C. and then, in succession, 15 ml of 10% aqueous citric acid solution, water and diethyl ether are added thereto. The product is extracted repeatedly with diethyl ether. The diastereoisomeric mixture is separated by FC (700 g of silica gel, eluant: dichloromethane/diethyl ether=9:1). The title compound is obtained: diastereoisomer I: Rf (dichloromethane/diethyl ether=9:1)=0.21; diastereoisomer II: Rf (dichloromethane/diethyl ether=9:1)=0.14.

reactant | methacrylic acid butylamide | 695 mg | C(CCC)NC(C(=C)C)=O | C8H15NO
reactant | n-butyllithium | 1.6M, 6.2 ml | C(CCC)[Li]
reactant | 2(S)-tert-butoxycarbonyl-amino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanal | 924 mg | C(C)(C)(C)OC(=O)[C@@](C=O)(C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)N | C23H37NO3
reactant | citric acid | 15 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | chlorotitanium triisopropoxide | 1M, 9.8 ml | CC([O-])C.CC([O-])C.CC([O-])C.Cl[Ti+3]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | N-Tert-butoxycarbonyl-2-methylene-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butyl-phenyl)-octanoic acid (N-butyl)amide | C(CCC)NC(C(C[C@@H]([C@H](C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)NC(=O)OC(C)(C)C)O)=C)=O | C31H52N2O4
